US04476056
In a manner similar to that described in Example 5 for preparing (2E,4E,6E,8E)-3,7-dimethyl-9-[2,3,6-trimethyl-4-(trifluoromethoxy)phenyl]-nonatetraenoic acid, 0.04 mol of ethyl (2E,4E,6E,8E)-3,7-dimethyl-9-[2,6-dichloro-3-methyl-4-(trifluoromethoxy)phenyl]-nonatetraenoate in dioxane solution could be treated with 2N methanolic KOH at reflux for 4 hours. Acidification and extractive workup would produce (2E,4E,6E,8E)- 3,7-dimethyl-9-[2,6-dichloro-3-methyl-4-(trifluoromethyoxy)phenyl]-nonatetraenoic acid.

reactant | (2E,4E,6E,8E)-3,7-dimethyl-9-[2,3,6-trimethyl-4-(trifluoromethoxy)phenyl]-nonatetraenoic acid | C\C(=C/C(=O)O)\C=C\C=C(\C=C\C1=C(C(=C(C=C1C)OC(F)(F)F)C)C)/C | C21H23F3O3
reactant | ethyl (2E,4E,6E,8E)-3,7-dimethyl-9-[2,6-dichloro-3-methyl-4-(trifluoromethoxy)phenyl]-nonatetraenoate | 0.04 mol | C\C(=C/C(=O)OCC)\C=C\C=C(\C=C\C1=C(C(=C(C=C1Cl)OC(F)(F)F)C)Cl)/C | C21H21Cl2F3O3
reactant | KOH | 2N | [OH-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2E,4E,6E,8E)- 3,7-dimethyl-9-[2,6-dichloro-3-methyl-4-(trifluoromethyoxy)phenyl]-nonatetraenoic acid | C\C(=C/C(=O)O)\C=C\C=C(\C=C\C1=C(C(=C(C=C1Cl)OC(F)(F)F)C)Cl)/C | C19H17Cl2F3O3
